US06573289B1
Production of 1-(6-Isopropoxynaphthalen-2-yl)-1-(1H-imidazol-4-yl)-2-methyl-1-propanol
In a similar manner to that described in Example 31-(i), the reaction of 1-(6-hydroxynaphthalen-2-yl)-2-methyl-1-(1-trityl-1H-imidazol-4-yl)-1-propanol (0.965 g) with isopropyl iodide (0.20 ml) was carried out to give the titled compound (0.548 g) as a colorless solid.

reactant | 1-(6-hydroxynaphthalen-2-yl)-2-methyl-1-(1-trityl-1H-imidazol-4-yl)-1-propanol | 0.965 g | OC=1C=C2C=CC(=CC2=CC1)C(C(C)C)(O)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C36H32N2O2
reactant | isopropyl iodide | 0.20 ml | C(C)(C)I | C3H7I
product | 1-(6-Isopropoxynaphthalen-2-yl)-1-(1H-imidazol-4-yl)-2-methyl-1-propanol | 0.548 g | C(C)(C)OC=1C=C2C=CC(=CC2=CC1)C(C(C)C)(O)C=1N=CNC1 | C20H24N2O2
